US07423158B2
A mixture of 2-fluoro-5-bromophenol (2.40 g), potassium carbonate (2.31 m), Aliquat 336 (5 drops), sodium iodide (catalytic) and 4-bromo-1,1-difluoro-1-butene (1.79 mL) in methyl ethyl ketone was placed in a pressure vessel and heated in a 82° oil bath for 15 hours. The reaction mixture was cooled, diluted with dichloromethane, filtered and evaporated in vacuo. The resultant residue was purified by flash chromatography (silica gel, eluant: 2.5% ethyl acetate/hexane to afford 4-bromo-2-(4,4-difluorobut-3-enyloxy)-1-fluorobenzene, 2.23 g (63% yield), identified by NMR analysis.

reactant | 2-fluoro-5-bromophenol | 2.40 g | FC1=C(C=C(C=C1)Br)O | C6H4BrFO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
reactant | 4-bromo-1,1-difluoro-1-butene | 1.79 mL | BrCCC=C(F)F | C4H5BrF2
catalyst | Aliquat 336 | 5 drops | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-bromo-2-(4,4-difluorobut-3-enyloxy)-1-fluorobenzene | 63% yield | BrC1=CC(=C(C=C1)F)OCCC=C(F)F | C10H8BrF3O
